US07807759B2
5 g of 1,3,5-benzenetricarbonyltrichloride (18.8 mol), 6.7 g of aluminum chloride (50.0 mmol) and 50 mL of distilled dichloromethane (DCM) were put in a 250 mL round flask, which was stirred for 30 minutes at 25° C. for reaction in the presence of nitrogen. 20 mL of dichloromethane and 4.5 g of fluorobenzene (48.8 mmol) were added in 100 mL of Dropping funnel, and the fluorobenzene solution was dropped in the round flask drop by drop. The reaction mixture was stirred for 4 hours in the presence of nitrogen, to which 20 mL of distilled water was added. The reaction mixture was stirred further for more than 12 hours. The organic layer of the reaction mixture was extracted by using dichloromethane, and the organic solvent was eliminated, resulting in a crude product. The crude product was re-crystallized using ethanol to give white brancher [3,5-bis(4-fluorobenzoyl)phenyl](4-fluorophenyl) methanone (yield: 70%). The structure of the [3,5-bis(4-fluorobenzoyl)phenyl](4-fluorophenyl)methanone was confirmed by 1H-NMR, 13C-NMR spectrometry and elemental analysis.

reactant | 1,3,5-benzenetricarbonyltrichloride | 18.8 mol, 5 g | C1(=CC(=CC(=C1)C(=O)Cl)C(=O)Cl)C(=O)Cl | C9H3Cl3O3
reactant | aluminum chloride | 50.0 mmol, 6.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | fluorobenzene | 48.8 mmol, 4.5 g | FC1=CC=CC=C1 | C6H5F
solvent | water | 20 mL | O | H2O
product | [3,5-bis(4-fluorobenzoyl)phenyl](4-fluorophenyl) methanone | yield: 70% | FC1=CC=C(C(=O)C=2C=C(C=C(C2)C(C2=CC=C(C=C2)F)=O)C(=O)C2=CC=C(C=C2)F)C=C1 | C27H15F3O3
